US04613609
(Z)-4-(4-Chlorophenyl)-2-buten-1-ol 4-methylbenzenesulfonate
Dissolve 6.7 g (0.036 mole) of (Z)-1-(4-chlorophenyl)-2-buten-1-ol in 100 ml of anhydrous ether, add 3.2 g of powdered KOH. Stir the mixture and with cooling add a solution of 7.0 g p-toluenesulfonylchloride in 30 ml of anhydrous ether. Continue to stir with cooling for 30 minutes, then allow to warm to room temperature overnight. Filter, wash the filtrate three times with saturated aqueous sodium bicarbonate, then with water and dry over sodium sulfate. Evaporate off solvents and triturate residue with petroleum ether, cyclohexane. Recrystallize residue from cyclohexane to yield the title compound.

reactant | (Z)-1-(4-chlorophenyl)-2-buten-1-ol | 0.036 mole, 6.7 g | ClC1=CC=C(C=C1)C(\C=C/C)O | C10H11ClO
reactant | KOH | 3.2 g | [OH-].[K+]
reactant | p-toluenesulfonylchloride | 7.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | (Z)-4-(4-Chlorophenyl)-2-buten-1-ol 4-methylbenzenesulfonate | ClC1=CC=C(C=C1)C\C=C/CO.CC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C10H11ClO.C7H8O3S/c11-10-6-4-9(5-7-10)3-1-2-8-12;1-6-2-4-7(5-3-6)11(8,9)10/h1-2,4-7,12H,3,8H2;2-5H,1H3,(H,8,9,10)/p-1/b2-1-;
